US09023844B2
To a mixture of N-acetyl-N-[4-(2-phenylpyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide (158 mg, 0.43 mmol, 1 eq) in 3 mL of ethanol is added sodium borohydride (35 mg, 0.94 mmol, 2.2 eq). The mixture is refluxed for 1 h. The mixture is then poured into water, extracted with dichloromethane (3×50 mL), dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure. The crude material is purified by column chromatography using silica gel in heptane and ethyl acetate (1:0 to 0:1) as eluent and 66 mg (46%) of N-acetyl-N-[4-(4-acetyl-2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide are obtained as a white solid.

reactant | N-acetyl-N-[4-(2-phenylpyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide | 0.43 mmol, 158 mg, 1 eq | C(C)(=O)N(C(C)=O)C1=NC=CC(=C1)C=1C(=NN2C1N=CC=C2)C2=CC=CC=C2 | C21H17N5O2
reactant | sodium borohydride | 0.94 mmol, 35 mg, 2.2 eq | [BH4-].[Na+]
reactant | water | O | H2O
reactant | ethanol | 3 mL | C(C)O | C2H6O
product | N-acetyl-N-[4-(4-acetyl-2-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-3-yl)pyridin-2-yl]acetamide | 66 mg, 46% | C(C)(=O)N(C(C)=O)C1=NC=CC(=C1)C=1C(=NN2C1N(CCC2)C(C)=O)C2=CC=CC=C2 | C23H23N5O3
